US07109340B2
The urea function is introduced onto the 6-(5-aminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide according to the method described in Example 1, using 2-fluoro-5-(trifluoromethyl)phenyl isocyanate, and results in the obtaining of 6-{5-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]pyridin-2-yl}4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carb-oxamide.

reactant | urea | NC(=O)N | CH4N2O
reactant | 6-(5-aminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide | NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)N | C12H14N6O
reactant | 2-fluoro-5-(trifluoromethyl)phenyl isocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 6-{5-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]pyridin-2-yl}4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carb-oxamide | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)N)=O | C20H17F4N7O2
